US07531552B2
1-Benzyl-pyrrolidine-3-carbonitrile
This transformation was carried out using the method described in C. Thomas et. al. reference 97. The mesylate of racemic 1-benzyl-pyrrolidin-3-ol (0.039 mol, 10 g), prepared as described above, sodium cyanide (0.24 mol, 15 g) and tetrabutylammonium cyanide (10 g, 0.037 mol) in 75 mL of DMSO was stirred at 80-85° C. for 16 h. The reaction mixture was partitioned between diethyl ether and sat. aq sodium bicarbonate. The aqueous layer was extracted twice with ether and the combined organic layer was washed successively with sodium bicarbonate, water, and sat aq. NaCl. The organic layer was dried over anhydrous magnesium sulfate, concentrated, and purified by flash chromatography over silica gel using a gradient of 20 to 30% ethyl acetate in hexane to afford 5.5 g of the desired product.

reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | racemic 1-benzyl-pyrrolidin-3-ol | 0.039 mol, 10 g | C(C1=CC=CC=C1)N1CC(CC1)O | C11H15NO
reactant | sodium cyanide | 0.24 mol, 15 g | [C-]#N.[Na+]
catalyst | tetrabutylammonium cyanide | 0.037 mol, 10 g | [C-]#N.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMSO | 75 mL | CS(=O)C | C2H6OS
product | 1-Benzyl-pyrrolidine-3-carbonitrile | 5.5 g | C(C1=CC=CC=C1)N1CC(CC1)C#N | C12H14N2
